US06867198B2
3-(6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-trifluoromethyl-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (6-(trifluoromethyl)indol-3-yl)acetamide and (6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | (6-(trifluoromethyl)indol-3-yl)acetamide | FC(C1=CC=C2C(=CNC2=C1)CC(=O)N)(F)F | C11H9F3N2O
reactant | (6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CCC(C3=CC=CC1=C23)(C)C)=O | C16H17NO3
product | 3-(6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-trifluoromethyl-1H-indol-3-yl)pyrrole-2,5-dione | CC1(CCN2C3=C(C=CC=C13)C(=C2)C=2C(NC(C2C2=CNC1=CC(=CC=C21)C(F)(F)F)=O)=O)C | C26H20F3N3O2
